US05003000
Polymerization of N-Hexadecylacrylamide-Acrylamide -DMA-N-Vinylpyrrolidinone-Sodium Acrylamido-2-methylpropane sulfonate
A solution was prepared of 6.0 g of sodium dodecylsulfate in 300 mL of deoxygenated water. N-Hexadecylacrylamide, 0.666 g, was dissolved in this solution followed by 9.44 g of acrylamide, 8.92 g of DMA, 10.00 g of N-vinylpyrrolidinone (NVP) and 27.99 g of sodium acrylamido-2-methylpropane sulfonate. The resulting solution was carefully transferred to a 1 L Morton style resin kettle fitted with a chilled water condenser, thermometer, inert gas sparger and mechanical stirrer. The temperature was adjusted to 25 C. and polymerization was initiated by the addition of 0.0518 g of 2,2'-azobis(N,N'-dimethylene-isobutyramidine) dihydrochloride. After stirring for 16 hr at 25 ±0.2 C., a 250 mL portion of the viscous solution was added to 3 L of acetone. The precipitated polymer was then masticated in a Waring blendor with methanol/acetone, filtered and dried under vacuum at 30 C. The yield of polymer was 42.21 g.

reactant | sodium dodecylsulfate | 6.0 g | C(CCCCCCCCCCC)OS(=O)(=O)[O-].[Na+]
reactant | N-Hexadecylacrylamide | C(CCCCCCCCCCCCCCC)NC(C=C)=O | C19H37NO
reactant | acrylamide | 9.44 g | C(C=C)(=O)N | C3H5NO
reactant | N-vinylpyrrolidinone | 10.00 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | sodium acrylamido-2-methylpropane sulfonate | 27.99 g | C(C=C)(=O)NC(C(C)C)S(=O)(=O)[O-].[Na+]
solvent | water | 300 mL | O | H2O
solvent | methanol acetone | CO.CC(=O)C
solvent | acetone | 3 L | CC(=O)C | C3H6O
solvent | DMA | 8.92 g | CC(=O)N(C)C | C4H9NO
product | N-Hexadecylacrylamide Acrylamide DMA N-Vinylpyrrolidinone Sodium Acrylamido-2-methylpropane sulfonate | C(CCCCCCCCCCCCCCC)NC(C=C)=O.C(C=C)(=O)N.CC(=O)N(C)C.C(=C)N1C(CCC1)=O.C(C=C)(=O)NC(C(C)C)S(=O)(=O)[O-].[Na+] | InChI=1S/C19H37NO.C7H13NO4S.C6H9NO.C4H9NO.C3H5NO.Na/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-20-19(21)4-2;1-4-6(9)8-7(5(2)3)13(10,11)12;1-2-7-5-3-4-6(7)8;1-4(6)5(2)3;1-2-3(4)5;/h4H,2-3,5-18H2,1H3,(H,20,21);4-5,7H,1H2,2-3H3,(H,8,9)(H,10,11,12);2H,1,3-5H2;1-3H3;2H,1H2,(H2,4,5);/q;;;;;+1/p-1
